US09376422B2
Step 8: 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1,2,3,6-tetrahydropyridin-4-yl)benzamide
To a stirred solution of tert-butyl 4-(3-(cyclopentyl(methyl)amino)-5-(((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-4-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (0.800 g, 1.45 mmol) in DCM was added TFA (3 mL) and the reaction mixture was stirred at RT for 2 h. On completion, reaction was concentrated to dryness. Residue was basified with aqueous sodium bicarbonate till pH 8 and aqueous layer extracted with 20% MeOH/DCM. Combined organic layers were dried over sodium sulfate and concentrated to afford crude material which was purified by preparative HPLC to afford the desired compound (0.620 g, 95%).

reactant | tert-butyl 4-(3-(cyclopentyl(methyl)amino)-5-(((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-4-methylphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.45 mmol, 0.800 g | C1(CCCC1)N(C=1C=C(C=C(C1C)C(NCC=1C(NC(=CC1C)C)=O)=O)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C32H44N4O4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-(cyclopentyl(methyl)amino)-N-((4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-5-(1,2,3,6-tetrahydropyridin-4-yl)benzamide | 0.620 g, 95% | C1(CCCC1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)C=1CCNCC1)C)C | C27H36N4O2
